* test6 direct comparison: baseline versus dummy-compensated chopper
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_cmos_chopper.spice
.include eeg_tg_lowq.spice
.param VDD=1.8 VCM=0.9 TCHOP=125u
VDD_SRC VDD18 0 {VDD}
* Approximately 100 ns non-overlap between active phases.
VPHI PHI 0 PULSE(0 {VDD} 0.05u 10n 10n 62.4u {TCHOP})
VPHIB PHIB 0 PULSE(0 {VDD} 62.55u 10n 10n 62.4u {TCHOP})
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
VINP INP 0 {VCM+0.5m}
VINN INN 0 {VCM-0.5m}

XBASE INP INN BOP BON PHI NPHI PHIB NPHIB VDD18 0 eeg_cmos_chopper
XLOWQ INP INN QOP QON PHI NPHI PHIB NPHIB VDD18 0 eeg_cmos_chopper_lowq
CBOP BOP 0 5p
CBON BON 0 5p
CQOP QOP 0 5p
CQON QON 0 5p
RBOP BOP 0 1G
RBON BON 0 1G
RQOP QOP 0 1G
RQON QON 0 1G
.control
set noaskquit
tran 0.02u 2m 0.2m
let bdiff=v(BOP)-v(BON)
let qdiff=v(QOP)-v(QON)
let bvcm=(v(BOP)+v(BON))/2
let qvcm=(v(QOP)+v(QON))/2
meas tran baseline_vcm_pp pp bvcm from=0.5m to=2m
meas tran lowq_vcm_pp pp qvcm from=0.5m to=2m
meas tran baseline_diff_pp pp bdiff from=0.5m to=2m
meas tran lowq_diff_pp pp qdiff from=0.5m to=2m
wrdata ../results/chopper_lowq_compare_tt.csv time bdiff qdiff bvcm qvcm v(PHI) v(PHIB)
quit
.endc
.end
